Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
"I have no direction in life."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ with self-reported history of depression who
presented after being sectioned at ___ for escalating
depression and suicidal ideation. 

Briefly, the patient reports that she has a several year history
of depression and anxiety which had been treated adequately with
Lexapro 20 mg up until about 3 weeks ago which was when she
graduated from ___. She received a degree of art history
and theatre, but since graduating, has had a really hard time
finding a job. She describes herself as an extremely motivated
and driven person, took AP classes in high school, and excelled
in college and was very involved. Not finding a job has been a
huge blow to her. She has felt like a failure and increasingly
worthless and depressed to the point of feeling suicidal. While
she has a long prior history of cutting (last self-harmed 8
months ago), the patient reports that she has never felt 
suicidal
up until recently. The thoughts started out as being 
intermittent
but has since increased in frequency and intensity to the point
where she reports she came close to killing herself twice and 
has
also resumed cutting her thighs.

A week ago last ___, she reports she was laying in a 
bathtub
holding a bottle of oxycodone (leftover from tooth extraction) 
as
well as some razors after drinking alcohol. Her partner came in
and found her there and confiscated the razors. Then this past
___, after drinking, she started to get the urge to attempt
to kill herself again via cutting. She informed her partner who
again confiscated the razors. While she reports that her SI is
worse in intensity while drinking, it is still there while she 
is
sober. This past ___, the patient's partner called ___ and got her an appointment there. She attended the
appointment today and was subsequently sectioned and sent to the
ED after telling them her story.

In regards to symptoms of depression, patient reports that she
has been sleeping all day and spending a lot of time alone. She
reports that she is usually able to wake up and drink coffee, 
and
then when she realizes she has nowhere to go, she goes back to
bed. After this she feels that it is extremely hard to get out 
of
bed, and that it would require "the amount of energy to run a
marathon." She feels that her body is "heavy." Additionally, she
has not been eating well and has no interest in food. Reports
that "nothing sounds good," though her weight has been stable.
She does have a history of binging/purging and restricting, but
"has never been diagnosed with anything. She denies any recent
binging or purging. She also reports that she was sexually
assaulted about a year ago by someone she knew, and sometimes 
has
flashbacks and nightmares. She denies any symptoms consistent
with mania. Denies hearing voices, seeing things, along with
paranoia.

At the time of interview, she reports ongoing suicidal ideation
without specific plan. She feels safe going to staff if these
thoughts were to intensify or if she were to develop a plan.

Collateral per Dr. ___ ___ note:
___, ___ at ___ (___):
Seen for the first time today, referred through primary care, no
psychiatrist or therapist.  Recently graduated from ___
with major in ___ ___ and art history, saw a therapist
there, but no longer.  Has had a rough go of it, difficult time
finding a job, which has triggered worsening symptoms of
depression.  She is alone during day, has developed some SI. In
polyamorous relationship, partner ___ recently confiscated her
razor blades because she was escalating in SIB.  Partner called
the office ___ saying that he was worried about her safety 
and
it was recommended that she present to the ED but she recused. 
Was seen urgently today and admitted to worsening SI and
additionally admitted that a roommate had found her in the
bathtub ___ with a bottle of pills.  When asked today
whether she had access to weapons she admitted to having knives
in the kitchen and stated that they were "sharp enough," adding
"don't ask me how I know that".  Her friends have been very
worried about her.  Her parents live in ___, but aren't aware of
what's going on.  Discussed with patient that she is not a
"typical depressed person", as she is very high-functioning and
uses humor to minimize the severity of her symptoms. 
Decompensates when her friends are not around.  No known history
of SA or psychiatric hospitalizations, but ___ believes that
she is unsafe and would benefit from being inpatient.

Psych ROS: As per ___

___ ROS: No fever, chills, nausea, vomiting, constipation,
diarrhea, chest pain, shortness of breath, palpitations,
lightheadedness, headaches or paresthesias.
 
Past Medical History:
*Histories obtained from ___, NP's ___
consult note and confirmed with patient and updated:

PAST PSYCHIATRIC HISTORY:
Hospitalizations: Denies
Current treaters and treatment: Denies
Medication and ECT trials: Lexapro 20 mg (currently taking
Self-injury: h/o cutting hips with razor since age ___, none 
since
___. but has resumed cutting. Has had +SI with plan to OD and/or
cut x 2 weeks.
Harm to others: Denies
Access to weapons: Denies

PAST MEDICAL HISTORY:
Denies
 
Social History:
Social History: 
Pt. born and raised in ___, came to ___ for college, graduated 3
weeks ago with art history degree and is job hunting, 
unemployed,
supported by parents.
Parents and older brother live in ___.
Currently lives in rented apartment with roommate and bf, ___.
Reports she is polyamorous, also has a girlfriend.
___ is away, at the wedding of another lover.  Before he left,
pt. reports he hid the razors and oxycodone pills (left over 
from
wisdom tooth extraction).

SUBSTANCE ABUSE HISTORY:
EtOH: drinks ___ drinks/night socially; no h/o detox/withdrawal
seizures
Illicits: Denies (note urine tox positive for cocaine)
Tobacco: smokes ___ cigs per day
Caffeine: ___ cups coffee daily

FORENSIC HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY
Denies
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T 98.5, BP 127/79, HR 76, RR 18, O2 99% RA    
General: NAD. Well-nourished, well-developed. Appears stated 
age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

NEUROLOGIC EXAMINATION:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full
-EOM: full
-Facial sensation to light touch in all 3 divisions: intact
-Facial symmetry on eye closure and smile: intact & symmetric
-Hearing bilaterally to rubbing fingers: intact
-Phonation: normal
-Shoulder shrug & head turn: normal bilaterally
-Tongue: midline, no atrophy
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. 
Strength: full power ___ throughout. 
Coordination: Able to manipulate objects across midline.
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

COGNITIVE EXAM: 
- Wakefulness/alertness: awake and alert
- Attention: MOYB intact
- Orientation: oriented to person, time, place, situation
- Executive function: not tested
- Memory: intact to recent and past history
- Fund of knowledge: consistent with education
- Calculations: correctly states 7 quarters in $1.75
- Abstraction: apple/orange = "fruit"
- Visuospatial: not assessed
- Speech: normal rate, volume, and tone
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS EXAM:
- Appearance: Young female with heavy make-up, half of head
shaved
- Behavior: Cooperative and plesasant
- Mood and Affect: "OK" / euthymic, full range, congruent
- Thought Process: linear, coherent, goal-oriented. No LOA.
- Thought Content: passive SI without plan
- Judgment and Insight: poor/poor
 
Pertinent Results:
___ 02:45PM   GLUCOSE-82 UREA N-11 CREAT-0.7 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-21* ANION GAP-19
___ 02:45PM   estGFR-Using this
___ 02:45PM   ALT(SGPT)-11 AST(SGOT)-20 ALK PHOS-63 TOT 
BILI-0.7
___ 02:45PM   VIT B12-484 FOLATE-17
___ 02:45PM   TSH-1.5
___ 02:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:45PM   WBC-6.8 RBC-4.76 HGB-13.5 HCT-40.9 MCV-86 
MCH-28.4 MCHC-33.0 RDW-12.6 RDWSD-39.6
___ 02:45PM   NEUTS-61.2 ___ MONOS-6.6 EOS-0.9* 
BASOS-0.6 IM ___ AbsNeut-4.16 AbsLymp-2.04 AbsMono-0.45 
AbsEos-0.06 AbsBaso-0.04
___ 02:45PM   PLT COUNT-223
___ 01:27PM URINE  HOURS-RANDOM
___ 01:27PM URINE  UCG-NEG
___ 01:27PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:27PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:27PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
This is a ___ y/o F with self-reported anxiety and
depression presenting to the inpatient unit voluntarily for
increasing suicidal ideation and plan. Since her admission, she
has been demonstrating improvement in her suicidal ideation, but
has had noted fluctuation in her mood, anxiety and sleep. Given 
the patient's presentation, concern for major depressive 
disorder and attention deficit disorder. 

#Legal/Safety: Patient was admitted for depression and suicidal 
ideation on a ___, then signed in a conditional voluntary 
status. She demonstrated good behavioral control on the unit. 

#Depression with suicidal ideation: Patient presented to the 
unit with suicidial ideation with plan and low mood, 
hypersomnolence, low appetite, decreased motivation amd 
difficulty concentrating. Patient was continued on her home 
regimen of  escitalopram 20mg daily and started on wellbutrin 
100mg sustained release for her vegetative symptoms of 
depression. With medication treatment, supportive psychotherapy 
and group therapy, her suicidality improved and she reported 
several days with no suicidal ideation or any other intent to 
harm herself. She notes improvement in her mood. Of note, she 
states that she functions better when she has structure to her 
day, so for this reason, recommend a partial hospital program 
with follow up with outpatient psychiatry. She utilizes 
mind-body techniques (progressive muscle relaxation) and 
vocalizes strong social supports and has plans to spend weekend 
with partner, able to identify appropriate steps in case of 
emergency. We provided her with contact information for ___ 
Emergency ___ Team ___ and ___. 

#Anxiety: Patient reported marked anxiety on arrival to the unit 
with difficulty sleeping. She was given hydroxyzine 25mg as 
needed for her anxiety and to help with sleep. She was also 
taught progressive muscle relaxation and other mind-body 
techniques, which she reported as helpful techniques to utilize 
moving forward. 

#Substance use: Given the positive cocaine in her UDS and her 
self reported low mood with suicidality often co-occurring with 
alcohol use, we discussed the risks of infection and addiction 
with cocaine as well as the depressant effect alcohol has on the 
brain. She noted understanding of the effects of cocaine and 
alcohol.

On ___ (discharge day), Ms. ___ reported "I am ready for the 
discharge". She described mood as "middle of the road". She 
explained that she feels calm and balanced. She slept well with 
Hydroxyzine last night. She reports that her anxiety is at a 
manageable level. Ms. ___ clearly denies any S/I. she shared that 
she spoke w her mother. On exam, she was alert, casually dressed 
in dark clothes and well groomed. In preparation for d/c, she 
had carefully applied make up. Unremarkable motor activity, good 
eye contact, spontaneous, fluent speech. TP linear. TC reveals 
no delusions. Euthymic, reactive, appropriate affect. Denied 
S/I. She shared about positive plans for future: she reported 
that her partner (___) is in town. Pt and partner plan to go 
dancing. Ms. ___ discussed appropriate steps in case of emergency.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO/NG DAILY 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 100 mg PO QAM  
2.  Escitalopram Oxalate 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
VS: T 98.0 BP 119/84 HR 88 RR 18 SpO2 94 
A/B: well-groomed, wearing clean clothes, cooperative with 
interview, pleasant, utilizing humor, wearing a hat, nose ring 
and with eye liner 
M: 'I'm doing good.'
A: congruent with mood, appropriate, euthymic
S: normal rate, rhythm, volume and prosody
TC: Patient states having no suicidal ideation or current plan; 
of note states having automatic thoughts of self harm but has 
cognitive defense mechanisms from acting upon thoughts
TP: linear, future and goal oriented
C: alert and oriented x 3
I/J: good/good

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___